US08193228B2
Lithium borohydride (22 mg, 1 mmol) was added to a −78° C. solution of 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanone (200 mg, 0.33 mmol) in methanol (20 mL). After stirring at ambient temperature for 1.5 h, the reaction mixture was quenched with acetone (1 mL) and concentrated in vacuo. Chromatography over silica eluting with 0-30% ethyl acetate/hexane afforded 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol.

reactant | Lithium borohydride | 1 mmol, 22 mg | [BH4-].[Li+]
reactant | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanone | 0.33 mmol, 200 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H38FN3O
solvent | methanol | 20 mL | CO | CH4O
product | 2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethanol | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)(CC)C | C41H40FN3O
